US05405839
To a solution of 1.46 g of 5,6-dimethylbenzimidazole dissolved in 50 ml of dry N,N-dimethylformamide was added 0.76 g of NaH, the mixture was stirred at room temperature for 30 minutes. To the mixture was added dropwise 5 ml of 3-chloro-1-propanol, and the reaction was carried out by stirring at room temperature for 2 days, followed by an addition of water to stop the reaction. Subsequently, according to the same processes as in Example 1, crude 1-(3-hydroxypropyl)-5,6-dimethylbenzimidazole was obtained. The conversion to this compound from 5,6-dimethylbenzimidazole was found to be 90%.

reactant | 5,6-dimethylbenzimidazole | 1.46 g | CC1=CC2=C(N=CN2)C=C1C | C9H10N2
reactant | NaH | 0.76 g | [H-].[Na+]
reactant | 3-chloro-1-propanol | 5 ml | ClCCCO | C3H7ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(3-hydroxypropyl)-5,6-dimethylbenzimidazole | OCCCN1C=NC2=C1C=C(C(=C2)C)C | C12H16N2O
